US04461905
1.4 g of 1-ethoxycarbonylimidazole, 2.5 g of ethyl 4-chloromethylphenoxyacetate and 1.7 g of sodium iodide were added to 5 ml of dry acetonitrile, and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. The residue was triturated with an adequate amount of dry diethyl ether, the resulting powder was collected by filtration and dried to obtain 4.6 g of 1-ethoxycarbonyl-3-(4-ethoxycarbonylmethoxybenzyl)imidazolium iodide (quantitative yield). Colorless hygroscopic amorphous.

reactant | 1-ethoxycarbonylimidazole | 1.4 g | C(C)OC(=O)N1C=NC=C1 | C6H8N2O2
reactant | ethyl 4-chloromethylphenoxyacetate | 2.5 g | ClCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13ClO3
reactant | sodium iodide | 1.7 g | [I-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-ethoxycarbonyl-3-(4-ethoxycarbonylmethoxybenzyl)imidazolium iodide | 4.6 g, quantitative yield | [I-].C(C)OC(=O)[N+]1=CN(C=C1)CC1=CC=C(C=C1)OCC(=O)OCC | InChI=1S/C17H21N2O5.HI/c1-3-22-16(20)12-24-15-7-5-14(6-8-15)11-18-9-10-19(13-18)17(21)23-4-2;/h5-10,13H,3-4,11-12H2,1-2H3;1H/q+1;/p-1
